US05608056
To a solution of (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-[3-(imidazol-1-yl)propyl]pyrrolidine (19.0 g) in acetonitrile (94 ml) was added conc. hydrochloric acid (9.4 ml) dropwise at 0° C. The solution was stirred at the same temperature for 30 minutes and quenched by the addition of triethylamine (16.7 ml). To the mixture was added ethyl acetate (200 ml) and the insoluble solid was removed by filtration. The filtrate was concentrated and the residue was dissolved in ethyl acetate (100 ml). The insoluble solid was filtered off and the filtrate was concentrated to give a light brown paste. The paste was chromatographed on a 90 g of silica gel to give (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-[3-(imidazol-1-yl)propyl]pyrrolidine (12.5 g) as a pale yellow paste.

reactant | (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-[3-(imidazol-1-yl)propyl]pyrrolidine | 19.0 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCCN1C=NC=C1 | C20H35N3O3Si
reactant | hydrochloric acid | 9.4 ml | Cl | ClH
solvent | acetonitrile | 94 ml | C(C)#N | C2H3N
product | (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-[3-(imidazol-1-yl)propyl]pyrrolidine | 12.5 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)CCCN1C=NC=C1 | C14H21N3O3
